US03963706
a. 2-Chloro-N-(3-chloro-4-sulphamoylphenyl)-acetamide
3-Chloro-4-sulphamoylaniline (20.6 g) and chloroacetyl chloride (20 ml) were refluxed 45 min and the mixture worked up as in Example 2(a) to yield 23.5 g m.p.: 214°-216°.

reactant | 3-Chloro-4-sulphamoylaniline | 20.6 g | ClC=1C=C(N)C=CC1S(N)(=O)=O | C6H7ClN2O2S
reactant | chloroacetyl chloride | 20 ml | ClCC(=O)Cl | C2H2Cl2O
product | 2-Chloro-N-(3-chloro-4-sulphamoylphenyl)-acetamide | ClCC(=O)NC1=CC(=C(C=C1)S(N)(=O)=O)Cl | C8H8Cl2N2O3S
